US06835732B2
2-Chloro-N-(4-methyl-2-benzothiazolyl)-nicotinamide
Using 4-methyl-benzothiazol-2-ylamine and 2-chloronicotinic acid chloride the title compound was obtained as a yellow solid (50% yield), MS: m/e=304 (M+H+).

reactant | 4-methyl-benzothiazol-2-ylamine | CC1=CC=CC2=C1N=C(S2)N | C8H8N2S
reactant | 2-chloronicotinic acid chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
product | 2-Chloro-N-(4-methyl-2-benzothiazolyl)-nicotinamide | ClC1=C(C(=O)NC=2SC3=C(N2)C(=CC=C3)C)C=CC=N1 | C14H10ClN3OS
